US05366987
(b) (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1,2,4-oxadiazole-5-acetamide
Carbonyl dimidazole (0.28 g, 1.71 mmol) was added to a solution of α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]-benzene acetic acid (0.56 g, 1.63 mmol) in dry THF (20 mL), and the resulting mixture was stirred at room temperature for 1 hour, then N-hydroxytridecane imidamide (0.37 g, 1.63 mmol) was added, and the mixture stirred for 1.5 hours, concentrated in vacuo, dissolved in glacial acetic acid, and refluxed for 1.5 hours. The solution was concentrated and azeotroped with benzene (2×25 mL), dissolved in ethyl acetate, and washed with NaHCO3, water, brine, dried with MgSO4, and recrystallized from ethanol/water to yield a white solid (0.093 g, 11%).

reactant | Carbonyl dimidazole | 1.71 mmol, 0.28 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]-benzene acetic acid | 1.63 mmol, 0.56 g | COC1=C(C(=CC(=C1)OC)OC)NC(=O)C(C(=O)O)C1=CC=CC=C1 | C18H19NO6
reactant | N-hydroxytridecane imidamide | 1.63 mmol, 0.37 g | ONC(CCCCCCCCCCCC)=N | C13H28N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1,2,4-oxadiazole-5-acetamide | 0.093 g, 11% | C(CCCCCCCCCCC)C1=NOC(=N1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C31H43N3O5
